US09034866B2
Synthesis of (±)-10-(4-cyano-3-hydroxy-3-methylbut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 3-hydroxy-3-methylpent-4-ynenitrile to give the titled compound as a brown solid (70 mg, 30%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 3-hydroxy-3-methylpent-4-ynenitrile | OC(CC#N)(C#C)C | C6H7NO
product | (±)-10-(4-cyano-3-hydroxy-3-methylbut-1-yn-1-yl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 70 mg, 30% | C(#N)CC(C#CC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F)(C)O | C18H15FN4O3
